US07851469B2
{6-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-pyridin-3-yl}-thiomorpholin-4-yl-methanone
As described for Example 18, 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester (70 mg, 0.17 mmol), was converted, using thiomorpholine instead of cyclopropanemethylamine, to the title compound (42 mg, 51%) which was obtained as a colourless oil. MS: m/e=486.0 [M+H]+.

reactant | 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester | 0.17 mmol, 70 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C20H13F3N4O3
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | {6-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-pyridin-3-yl}-thiomorpholin-4-yl-methanone | 42 mg, 51% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=N1)C(=O)N1CCSCC1)C(F)(F)F | C23H18F3N5O2S
